US07348438B2
1-Biphenyl-2-ylmethyl-5,6-dichloro-2-(2,2,2-trifluoro-ethyl)-1H-benzoimidazole
To 5,6-dichloro-2-(2,2,2-trifluoro-ethyl)-1H-benzimidazole (521 mg) in DMF (5 mL) was added potassium carbonate powder (802 mg) and 2-phenyl benzyl bromide (1.43 g). The resulting mixture was stirred at room temperature overnight. The reaction mixture was quenched with water, extracted with EtOAc, and dried over Na2SO4. The crude product was purified by silica gel chromatography (5%-40% EtOAc/hexanes), followed by recrystallization with Et2O/hexanes to yield the title compound as a white solid.

reactant | 5,6-dichloro-2-(2,2,2-trifluoro-ethyl)-1H-benzimidazole | 521 mg | ClC1=CC2=C(NC(=N2)CC(F)(F)F)C=C1Cl | C9H5Cl2F3N2
reactant | potassium carbonate | 802 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-phenyl benzyl bromide | 1.43 g | C1(=CC=CC=C1)C1=C(CBr)C=CC=C1 | C13H11Br
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 1-Biphenyl-2-ylmethyl-5,6-dichloro-2-(2,2,2-trifluoro-ethyl)-1H-benzoimidazole | C1(=C(C=CC=C1)CN1C(=NC2=C1C=C(C(=C2)Cl)Cl)CC(F)(F)F)C2=CC=CC=C2 | C22H15Cl2F3N2
